US07893046B2
Under an argon atmosphere, sodium hydride (60 wt %) (240 mg) was added to a solution of 2-(4-bromophenyl)acetic acid methyl ester (916 mg) in anhydrous DMF (20 ml) at 0° C., and the resulting mixture was stirred at 0° C. for 30 minutes. To the reaction solution, bis(2-bromoethyl)ether (0.70 mL) was added, and the resulting mixture was stirred at 0° C. for 1 hour. Sodium hydride (60 wt %) (240 mg) was added thereto and the resulting mixture was further stirred at 0° C. for 1 hour. Saturated aqueous ammonium chloride solution was added thereto, and the resulting mixture was extracted with ethyl acetate. Organic layer was washed once with saturated brine, and dried over anhydrous sodium sulfate. After removing anhydrous sodium sulfate by filtration, the filtrate was concentrated. The residue was purified by column chromatography (silica gel, eluent: hexane/ethyl acetate=4/1) to obtain 4-(4-bromophenyl)-tetrahydro-2H-pyran-4-carboxylic acid methyl ester (472 mg). (2) Under an argon atmosphere, a solution of 4-(4-bromophenyl)-tetrahydro-2H-pyran-4-carboxylic acid methyl ester (472 mg) obtained in (1) in anhydrous THF (8.7 mL) was added to a 1.0 M solution of diisobutylaluminum hydride in hexane (8.7 mL) at 0° C., and the resulting mixture was stirred at 0° C. for 30 minutes. After adding methanol (2.1 ml) to the reaction solution, 1N hydrochloric acid (8.7 mL) was added thereto and the resulting mixture was extracted 4 times with diethyl ether. Organic layers were washed with saturated brine, and dried over anhydrous sodium sulfate. After removing anhydrous sodium sulfate by filtration, the filtrate was concentrated to obtain (4-(4-bromophenyl)-tetrahydro-2H-pyran-4-yl)methanol (405 mg). (3) Under an argon atmosphere, sodium hydride (60 wt %) (88 mg) was added to a solution of (4-(4-bromophenyl)-tetrahydro-2H-pyran-4-yl)methanol (397 mg) obtained in (2) in anhydrous DMF (1.5 mL) at 0° C., and the resulting mixture was stirred at 0° C. for 30 minutes. Methyl iodide (0.13 ml) was added dropwise to the reaction solution, and the resulting mixture was stirred at room temperature for 2 hours. Saturated brine was added thereto and the resulting mixture was extracted 3 times with ethyl acetate. Organic layers were washed with saturated brine and dried over anhydrous sodium sulfate. After removing anhydrous sodium sulfate by filtration, the filtrate was concentrated. The residue was purified by column chromatography (silica gel, eluent: hexane/ethyl acetate=5/1) to obtain 4-(4-bromophenyl)-tetrahydro-4-(methoxymethyl)-2H-pyran (399 mg).

reactant | sodium hydride | 240 mg | [H-].[Na+]
reactant | 2-(4-bromophenyl)acetic acid methyl ester | 916 mg | COC(CC1=CC=C(C=C1)Br)=O | C9H9BrO2
reactant | bis(2-bromoethyl)ether | 0.70 mL | BrCCOCCBr | C4H8Br2O
reactant | Sodium hydride | 240 mg | [H-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 4-(4-bromophenyl)-tetrahydro-2H-pyran-4-carboxylic acid methyl ester | 472 mg | COC(=O)C1(CCOCC1)C1=CC=C(C=C1)Br | C13H15BrO3
